US07981896B2
4-(3-Methyl-4,5,5a,6,7,8,9,9a-octahydrobenzo[g]indazol-1-yl)phenol.
1-(4-Methoxyphenyl)-3-methyl-4,5,5a,6,7,8,9,9a-octahydro-1H-benzo[g]indazole (0.44 g, 1.49 mmol) was dissolved in dichloromethane (4 mL) and cooled to −40° C., and boron tribromide (0.5 mL) was added. The reaction was stirred for 2 hours, then carefully quenched with saturated sodium bicarbonate solution. The mixture was extracted with dichloromethane. The organic extracts were washed with brine, dried over MgSO4, and concentrated. The reaction was assumed to be quantitative. LC-MS (C18H22N2O calculated 282) m/z 283 (M+H).

reactant | 1-(4-Methoxyphenyl)-3-methyl-4,5,5a,6,7,8,9,9a-octahydro-1H-benzo[g]indazole | 1.49 mmol, 0.44 g | COC1=CC=C(C=C1)N1N=C(C=2CCC3C(C12)CCCC3)C | C19H24N2O
reactant | boron tribromide | 0.5 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 4-(3-Methyl-4,5,5a,6,7,8,9,9a-octahydrobenzo[g]indazol-1-yl)phenol | CC1=NN(C=2C3C(CCC12)CCCC3)C3=CC=C(C=C3)O | C18H22N2O
